US08426408B2
(1S,2S,3R,4R)-3-[(5-bromo-2-{[1-(2-phenyl ethyl)-1H-pyrazol-4-yl]amino}pyrimidin-4-yl)amino]bicyclo[2.2.1]hept-5-ene-2-carboxamide
The title compound was prepared as described in Example 1, substituting 1-(2-phenylethyl)-1H-pyrazol-4-amine for 1-methyl-1H-pyrazol-4-amine in Example 1B along with substitution of (+)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide for (+/−)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide and 2,4-dichloro-5-bromopyrimidine for 2,4-dichloro-5-fluoropyrimidine in Example 1A. 1H NMR (300 MHz, DMSO-d6) ppm 1.40 (d, J=8.82 Hz, 1H) 2.10 (d, J=8.48 Hz, 1H) 2.73 (s, 1H) 2.87 (s, 1H) 3.06 (t, J=7.29 Hz, 2H) 3.99-4.12 (m, 1H) 4.26 (t, J=7.29 Hz, 2H) 6.25 (d, J=8.48 Hz, 1H) 6.31-6.40 (m, 1H) 7.15 (d, J=6.78 Hz, 2H) 7.20-7.30 (m, 4H) 7.53 (s, 1H) 7.64 (s, 2H) 7.78 (s, 1H) 7.94 (s, 1H) 9.09 (s, 1H); MS (ESI(+)) m/e 494 (M+H)+.

reactant | 1-methyl-1H-pyrazol-4-amine | CN1N=CC(=C1)N | C4H7N3
reactant | (+/−)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide | N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C8H12N2O
reactant | 2,4-dichloro-5-bromopyrimidine | ClC1=NC=C(C(=N1)Cl)Br | C4HBrCl2N2
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
product | (1S,2S,3R,4R)-3-[(5-bromo-2-{[1-(2-phenyl ethyl)-1H-pyrazol-4-yl]amino}pyrimidin-4-yl)amino]bicyclo[2.2.1]hept-5-ene-2-carboxamide | BrC=1C(=NC(=NC1)NC=1C=NN(C1)CCC1=CC=CC=C1)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C23H24BrN7O
